US07217724B2
3-{(2 R)-2-[((2R)-2-{4-(Benzyloxy)-3-[(methylsulfonyl)amino]phenyl}-2-hydroxyethyl)amino]propyl}-1H-indole-7-carboxylic acid
To a solution of methyl 3-[(2R)-2-({(2R)-2-{4-(benzyloxy)-3-[(methylsulfonyl)amino]phenyl}-2-[(triethylsilyl)oxy]ethyl}amino)propyl]-1H-indole-7-carboxylate (400 mg, 0.601 mmol) in methanol (20 ml) is added a solution of potassium hydroxide (336 mg, 6.01 mmol) in water (2.0 ml), and the mixture is stirred at 40° C. for 9 hours. The reaction solution is neutralized with 1N hydrochloric acid at 0° C., and thereto is added a pH standard solution (pH 6.8, 5.0 ml). The resultant is purified by reversed phase column (octadecylsilyl, water/methanol 95/5→40/60) to give the title compound (296 mg, yield: 92%).

reactant | methyl 3-[(2R)-2-({(2R)-2-{4-(benzyloxy)-3-[(methylsulfonyl)amino]phenyl}-2-[(triethylsilyl)oxy]ethyl}amino)propyl]-1H-indole-7-carboxylate | 0.601 mmol, 400 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)[C@H](CN[C@@H](CC1=CNC2=C(C=CC=C12)C(=O)OC)C)O[Si](CC)(CC)CC)NS(=O)(=O)C | C35H47N3O6SSi
reactant | potassium hydroxide | 6.01 mmol, 336 mg | [OH-].[K+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
solvent | water | 2.0 ml | O | H2O
product | 3-{(2 R)-2-[((2R)-2-{4-(Benzyloxy)-3-[(methylsulfonyl)amino]phenyl}-2-hydroxyethyl)amino]propyl}-1H-indole-7-carboxylic acid | 296 mg, yield: 92% | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)[C@H](CN[C@@H](CC1=CNC2=C(C=CC=C12)C(=O)O)C)O)NS(=O)(=O)C | C28H31N3O6S
